US07253198B2
(2S,3R)-2-tert-Butoxycarbonylamino-3-hydroxy-hexanoic acid methyl ester (D94) (1.57 g, 6.02 mmol, 1 equiv) was refluxed in iso-butylamine (10 ml) for 2 h. The solution was concentrated in vacuo and the residue purified by flash chromatography on silica gel to give ((1S,2R)-2-hydroxy-1-isobutylcarbamoyl-pentyl)-carbamic acid tert-butyl ester (G33) (1.52 g, 84%) as a white solid.

reactant | (2S,3R)-2-tert-Butoxycarbonylamino-3-hydroxy-hexanoic acid methyl ester | 6.02 mmol, 1.57 g, 1 equiv | COC([C@H]([C@@H](CCC)O)NC(=O)OC(C)(C)C)=O | C12H23NO5
reactant | iso-butylamine | 10 ml | C(C(C)C)N | C4H11N
product | ((1S,2R)-2-hydroxy-1-isobutylcarbamoyl-pentyl)-carbamic acid tert-butyl ester | 1.52 g, 84% | C(C)(C)(C)OC(N[C@@H]([C@@H](CCC)O)C(NCC(C)C)=O)=O | C15H30N2O4
